US08207164B2
e) 5-(2-Fluoro-phenyl)-5-trifluoromethyl-[1,4]oxazepan-3-one
To a refluxing solution of potassium tert-butylate (1.31 g, 11.29 mmol) in 43 ml t-BuOH was added dropwise a solution of 2-chloro-N-[1-(2-fluoro-phenyl)-3-hydroxy-1-trifluoromethyl-propyl]-acetamide (1.77 g, 5.64 mmol) in 35 ml THF over a period of 60 minutes. The reaction mixture was cooled down and quenched with 1N HCl. EtOAc was added and the organic layer was washed with brine, dried with MgSO4.H2O and evaporated. The crude product was purified on a silica gel column by eluting with hexane/EtOAc 3/1->2.5/1 to give 1.19 g of the title compound as white crystals.

reactant | potassium tert-butylate | 11.29 mmol, 1.31 g | CC(C)(C)[O-].[K+]
reactant | 2-chloro-N-[1-(2-fluoro-phenyl)-3-hydroxy-1-trifluoromethyl-propyl]-acetamide | 5.64 mmol, 1.77 g | ClCC(=O)NC(CCO)(C(F)(F)F)C1=C(C=CC=C1)F | C12H12ClF4NO2
solvent | t-BuOH | 43 ml | CC(C)(C)O | C4H10O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 5-(2-Fluoro-phenyl)-5-trifluoromethyl-[1,4]oxazepan-3-one | 1.19 g | FC1=C(C=CC=C1)C1(NC(COCC1)=O)C(F)(F)F | C12H11F4NO2
